US06166006
To a mixture of nitric acid (3.6 ml) and concentrated sulfuric acid (22 ml) was added benzyldipropylphosphineoxide (10.75 g) at 0° C., and the mixture was stirred at 60° C. for 1.5 hours. The reaction mixture was added to ice-water, and ammonia solution was added to the mixture to neutralize the solution, which was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated. The residue was separated and purified with column chromatography (ethyl acetate/ethanol=9:1→4:1) to give 4-nitrobenzyldipropylphosphine oxide (3.77 g) as pale yellow crystals.

reactant | nitric acid | 3.6 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 22 ml | S(O)(O)(=O)=O | H2O4S
reactant | benzyldipropylphosphineoxide | 10.75 g | C(C1=CC=CC=C1)P(CCC)(CCC)=O | C13H21OP
reactant | ammonia | N | H3N
product | 4-nitrobenzyldipropylphosphine oxide | 3.77 g | [N+](=O)([O-])C1=CC=C(CP(CCC)(CCC)=O)C=C1 | C13H20NO3P
